### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Log): bounds on partial sums of the logarithm

### PR DESCRIPTION
**Pull request by teorth**
Adds `Mathlib/Analysis/SpecialFunctions/Log/Sum.lean`, collecting elementary bounds on the
partial sum of the logarithm:

- `sum_log_eq_log_factorial`: `∑ n ∈ Finset.Ioc 0 N, Real.log n = Real.log N !`.
- `sum_log_le` / `sum_log_le'` and `le_sum_log` / `le_sum_log'`: crude upper and lower bounds
  on `∑ n ∈ Ioc 0 ⌊x⌋₊, log n` of the shape `x * log x - x + O(log x)`, obtained by comparing
  the sum with `∫ t in 1..x, log t`.
- `le_sum_log_nat`: the sharper natural-number lower bound `N * log N - N ≤ ∑ n ∈ Ioc 0 N, log n`,
  via `Stirling.le_log_factorial_stirling`.

---

These crude bounds are convenient in analytic number theory — for instance in the proof of
Mertens' theorems (#41394), from which they are spun off.

For more precise estimates, one should use the sharper bounds in `Mathlib.Analysis.SpecialFunctions.Stirling`.

This code was initially generated by the PNT+ project, and golfed both by myself and by AI tools.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Log/Sum.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+theorem sum_log_le' (hx : 1 ≤ x) : ∑ n ∈ Ioc 0 ⌊x⌋₊, log n ≤ x * log x := by
+  linarith [sum_log_le hx, log_le_sub_one_of_pos (by linarith)]
+
+/-- A crude lower bound on the partial sum of the logarithm. -/
+theorem le_sum_log (hx : 1 ≤ x) : x * log x - x - log x + 1 ≤ ∑ n ∈ Ioc 0 ⌊x⌋₊, log n := by
+  have : 1 ≤ ⌊x⌋₊ := by simpa
+  calc
+    _ ≥ ∫ t in 1..⌊x⌋₊, log t := by
+      rw [← Icc_add_one_left_eq_Ioc, zero_add, ← add_sum_Ioc_eq_sum_Icc this, cast_one,
+      log_one, ← Ico_add_one_add_one_eq_Ioc, zero_add, ← sum_Ico_add']
```
Comment (wwylele) [inline Mathlib/Analysis/SpecialFunctions/Log/Sum.lean]:
```suggestion
      rw [← Icc_add_one_left_eq_Ioc, zero_add, ← add_sum_Ioc_eq_sum_Icc this, cast_one,
        log_one, ← Ico_add_one_add_one_eq_Ioc, zero_add, ← sum_Ico_add']
```

**Review by wwylele — COMMENTED** [review]
Should all of these be in the `Real` namespace, as they use `Real.log` (as opposite to `Nat.log` or `Complex.log`)?

File: Mathlib/Analysis/SpecialFunctions/Log/Sum.lean [hunk 2]
```diff
@@ -0,0 +1,95 @@
...
+  have : 1 ≤ ⌊x⌋₊ := by simpa
+  calc
+    _ ≤ (∫ t in (1 : ℕ)..⌊x⌋₊, log t) + log x := by
+      rw [← Icc_add_one_left_eq_Ioc, ← sum_Ico_add_eq_sum_Icc (by simpa)]
+      gcongr
+      exact (strictMonoOn_log.monotoneOn.mono (by grind)).sum_le_integral_Ico ‹_›
+    _ ≤ (∫ t in 1..x, log t) + log x := by
+      norm_cast; gcongr
+      exact integral_mono_interval (by rfl) (mod_cast ‹_›) ‹_›
+        (ae_restrict_of_forall_mem (by measurability) fun _ _ ↦ (log_pos (by grind)).le)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Sum.lean]: Does this work? Did they get unified?
```suggestion
        (ae_restrict_of_forall_mem (by fun_prop) fun _ _ ↦ (log_pos (by grind)).le)
```

File: Mathlib/Analysis/SpecialFunctions/Log/Sum.lean [hunk 3]
```diff
@@ -0,0 +1,95 @@
...
+
+open Nat hiding log log_pos
+open Finset intervalIntegral MeasureTheory
+
+namespace Real
+
+variable {x : ℝ} (N : ℕ)
+
+/-- The partial sum of the logarithm is equal to the log of the factorial. -/
+theorem sum_log_eq_log_factorial : ∑ n ∈ Ioc 0 N, log n = log N.factorial := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Sum.lean:38]: you'll know better what is most useful, but do you think this is a better statement?
```suggestion
theorem sum_log_eq_log_factorial : ∑ n ∈ range N, log (n + 1) = log N.factorial := by
```
My reasoning is that we likely have more API for `Finset.range`. The same suggestion of course applies elsewhere here.

**Review by j-loreaux — COMMENTED** [review]
mostly this looks okay to me, although I have a question below, and I also wonder whether the names should include things like `Ioc_floor` (or `range_floor`).

File: Mathlib/Analysis/SpecialFunctions/Log/Sum.lean (hunk 2 above)
Comment (teorth) [reply Mathlib/Analysis/SpecialFunctions/Log/Sum.lean]: fun_prop didn't work, but measurableSet_Ioc did, so am switching to that.

File: Mathlib/Analysis/SpecialFunctions/Log/Sum.lean (hunk 3 above)
Comment (teorth) [reply Mathlib/Analysis/SpecialFunctions/Log/Sum.lean:38]: I've added a second version of the lemma along the lines you suggest.  The `Ioc 0 N` version matches the Chebyshev function https://github.com/leanprover-community/mathlib4/blob/272943809cca261bdcc9366a1af4967180482d51/Mathlib/NumberTheory/Chebyshev.lean#L72-L74 which is the main motivation for this material.  More generally the naming system has largely followed that in https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/Chebyshev.html which does not explicitly use terms such as `Ioc_floor` to describe summation ranges.

File: Mathlib/Analysis/SpecialFunctions/Log/Sum.lean [hunk 4]
```diff
@@ -0,0 +1,102 @@
...
+## Main statements
+
+* `sum_log_eq_log_factorial`: `∑ n ∈ Ioc 0 N, log n = log N !`, and its `Finset.range` restatement
+  `sum_log_add_one_eq_log_factorial`: `∑ n ∈ range N, log (n + 1) = log N !`.
+* `sum_log_le` / `le_sum_log`: two-sided bounds on `∑ n ∈ Ioc 0 ⌊x⌋₊, log n`.
+* `le_sum_log_nat`: a sharper lower bound `N * log N - N ≤ ∑ n ∈ Ioc 0 N, log n` via Stirling.
+-/
+
+@[expose] public section
+
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Log/Sum.lean]:
```suggestion
public section
```
`@[expose]` is not needed as the file contains no data-carrying `def`'s (only theorems)

File: Mathlib/Analysis/SpecialFunctions/Log/Sum.lean [hunk 5]
```diff
@@ -0,0 +1,102 @@
...
+    _ ≤ (∫ t in (1 : ℕ)..⌊x⌋₊, log t) + log x := by
+      rw [← Icc_add_one_left_eq_Ioc, ← sum_Ico_add_eq_sum_Icc (by simpa)]
+      gcongr
+      exact (strictMonoOn_log.monotoneOn.mono (by grind)).sum_le_integral_Ico ‹_›
+    _ ≤ (∫ t in 1..x, log t) + log x := by
+      norm_cast; gcongr
+      exact integral_mono_interval (by rfl) (mod_cast ‹_›) ‹_›
+        (ae_restrict_of_forall_mem measurableSet_Ioc fun _ _ ↦ (log_pos (by grind)).le)
+        intervalIntegrable_log'
+    _ = _ := by simp; ring
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Log/Sum.lean]: I'm a bit concerned about the use of "anonymous" `have` combined with `‹_›`, I think it erodes readability. I would suggest giving these propositions some arbitrary names to disambiguate:
```suggestion
  have aux1 : ⌊x⌋₊ ≤ x := floor_le (by linarith)
  have aux2 : 1 ≤ ⌊x⌋₊ := by simpa
  calc
    _ ≤ (∫ t in (1 : ℕ)..⌊x⌋₊, log t) + log x := by
      rw [← Icc_add_one_left_eq_Ioc, ← sum_Ico_add_eq_sum_Icc (by simpa)]
      gcongr
      exact (strictMonoOn_log.monotoneOn.mono (by grind)).sum_le_integral_Ico aux2
    _ ≤ (∫ t in 1..x, log t) + log x := by
      grw [Nat.cast_one, integral_mono_interval le_rfl (mod_cast aux2) aux1 _ (by simp)]
      exact ae_restrict_of_forall_mem measurableSet_Ioc fun _ hy ↦ (log_nonneg hy.1.le)
    _ = _ := by grind [integral_log, log_one]
```

File: Mathlib/Analysis/SpecialFunctions/Log/Sum.lean [hunk 6]
```diff
@@ -0,0 +1,102 @@
...
+
+/-- An even cruder upper bound on the partial sum of the logarithm. -/
+theorem sum_log_le' (hx : 1 ≤ x) : ∑ n ∈ Ioc 0 ⌊x⌋₊, log n ≤ x * log x := by
+  linarith [sum_log_le hx, log_le_sub_one_of_pos (by linarith)]
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Log/Sum.lean]: I'm actually surprised that this works. For robustness I'd suggest explicitly telling the inner `linarith` what it should be proving, rather than letting it deduce that from the outer one:

```suggestion
  linarith [sum_log_le hx, log_le_sub_one_of_pos (show 0 < x by linarith)]
```

File: Mathlib/Analysis/SpecialFunctions/Log/Sum.lean [hunk 7]
```diff
@@ -0,0 +1,102 @@
...
+      rw [sub_neg_eq_add, integral_add_adjacent_intervals] <;> simp
+    _ ≥ (∫ t in 1..x, log t) - ∫ t in ⌊x⌋₊..x, log x := by
+      gcongr
+      apply integral_mono_on (floor_le (by linarith)) (by simp) (by simp)
+      intro _ _; rify at this; gcongr <;> grind
+    _ ≥ _ := by
+      have := log_nonneg hx
+      have : x - ⌊x⌋₊ ≤ 1 := by linarith [lt_floor_add_one x]
+      grw [integral_log, log_one, intervalIntegral.integral_const, smul_eq_mul]
+      nlinarith
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Log/Sum.lean]: Generally mathlib strongly prefers inequalities written with `<` and `≤`, so here is the same proof with the steps reversed:
```suggestion
  calc
    _ ≤ (∫ t in 1..x, log t) - ∫ t in ⌊x⌋₊..x, log x := by
      have : x - ⌊x⌋₊ ≤ 1 := by linarith [lt_floor_add_one x]
      grw [integral_log, log_one, intervalIntegral.integral_const, smul_eq_mul]
      nlinarith [log_nonneg hx]
    _ ≤ (∫ t in 1..x, log t) - ∫ t in ⌊x⌋₊..x, log t := by
      rify at this
      gcongr
      apply integral_mono_on (floor_le (by linarith)) (by simp) (by simp)
      grind [log_le_log_iff]
    _ = ∫ t in 1..⌊x⌋₊, log t := by
      rw [integral_symm _ ⌊x⌋₊, sub_neg_eq_add, integral_add_adjacent_intervals] <;>
      simp
    _ ≤ _ := by
      rw [← Icc_add_one_left_eq_Ioc, zero_add, ← add_sum_Ioc_eq_sum_Icc this, cast_one,
        log_one, ← Ico_add_one_add_one_eq_Ioc, zero_add, ← sum_Ico_add']
      exact_mod_cast ((strictMonoOn_log.mono (by grind)).monotoneOn.integral_le_sum_Ico this)
```
I've also made some minor style adjustments (one tactic per line is preferred, and the `nth_rw` can be avoided by supplying one argument).

**Review by loefflerd — COMMENTED** [review]
This looks great, nothing to change about the overall design, just some localized code-style comments.

maintainer delegate

**Comment by loefflerd** [comment]
> A merged suggestion dropped `@[expose] public section` entirely instead of
just the `@[expose]`

(Sorry, my mistake)

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
